US04430265
Digeranylacetic acid (300 mg, 0.9 m mol) and p-nitrophenol (139 mg, 1 m mol) were dissolved in acetonitrile-ethyl acetate (1:1) (10 ml), and under ice-cooling, N,N'-dicyclohexylcarbodiimide (227 mg, 1.1 m mols) was added. The mixture was stirred at 0° C. for 3 hours and at room temperature for 15 hours. The crystalline precipitate was removed and the solvent was distilled off under reduced pressure, whereby digeranyl acetic acid p-nitrophenyl ester was obtained.

reactant | Digeranylacetic acid | 300 mg | C(\C=C(/C)\CCC=C(C)C)C(C(=O)O)C\C=C(/C)\CCC=C(C)C | C22H36O2
reactant | p-nitrophenol | 139 mg | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 227 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetonitrile ethyl acetate | 10 ml | C(C)#N.C(C)(=O)OCC
product | digeranyl acetic acid p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(C(C\C=C(/C)\CCC=C(C)C)C\C=C(/C)\CCC=C(C)C)=O | C28H39NO4
